US08012966B2
A stirred solution of N,N-dimethylformamide (2 ml) was added dropwise slowly with phosphorus oxychloride (104 μl, 1.1 mmol) under an argon atmosphere while maintaining the temperature at 0° C. Upon completion of the addition, the mixture was stirred for 15 minutes at room temperature, and cooled down to 0˜5° C. in an ice-water bath. A mixture of 5-(2-dimethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (221 mg, 1 mmol) in 1.2 ml of N,N-dimethylformamide was added dropwise to the above solution. Upon completion of the addition, the mixture was stirred for 2 hours at 0° C., added with cold water (15 ml), stirred for 5 minutes. The resulting mixture was adjusted to pH 12 with 10% aqueous sodium hydroxide solution and extracted with dichloromethane (15 ml×6). The combined organic extracts were washed with brine (15 ml), dried with anhydrous sodium sulfate; filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography with triethylamine:methanol:dichloromethane (1:20:500) as eluents to give 5-(2-dimethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde (105 mg, 38%) as a pink oil which was used as such.

reactant | phosphorus oxychloride | 1.1 mmol, 104 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-(2-dimethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 1 mmol, 221 mg | CN(CCN1C(C2=C(CC1)NC=C2C)=O)C | C12H19N3O
reactant | water | 15 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N,N-dimethylformamide | 1.2 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-(2-dimethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | 105 mg, 38% | CN(CCN1C(C2=C(CC1)NC(=C2C)C=O)=O)C | C13H19N3O2
